US06538152B1
To a solution of 2-benzyloxy-5-(2-methoxymethoxyethyl)benzonitrile (711 mg) in ethyl acetate (10 ml) was added 10% palladium carbon (100 mg), and the mixture was stirred for 30 minutes at room temperature under a hydrogen atmosphere. After removal of the catalyst by filtration, removal of the solvent under reduced pressure gave 2-hydroxy-5-(2-methoxymethoxyethyl)benzonitrile (496 mg).

reactant | 2-benzyloxy-5-(2-methoxymethoxyethyl)benzonitrile | 711 mg | C(C1=CC=CC=C1)OC1=C(C#N)C=C(C=C1)CCOCOC | C18H19NO3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 2-hydroxy-5-(2-methoxymethoxyethyl)benzonitrile | 496 mg | OC1=C(C#N)C=C(C=C1)CCOCOC | C11H13NO3
